US07700589B2
9c) ethyl 2-acetylamino-3-(3,4-diethyl-phenyl)-propionate
A mixture of 35.2 g (104.9 mmol) monoethyl 2-acetylamino-2-(3,4-diethyl-benzyl)-malonate and 400 mL toluene was refluxed for 15 h. The reaction mixture was evaporated down under reduced pressure, the residue was taken up in DCM and the organic phase washed with saturated NaHCO3 solution. The organic phase was then dried and evaporated down under reduced pressure.

reactant | monoethyl 2-acetylamino-2-(3,4-diethyl-benzyl)-malonate | 104.9 mmol, 35.2 g | C(C)(=O)NC(C(=O)OCC)(C(=O)[O-])CC1=CC(=C(C=C1)CC)CC
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-acetylamino-3-(3,4-diethyl-phenyl)-propionate | C(C)(=O)NC(C(=O)OCC)CC1=CC(=C(C=C1)CC)CC | C17H25NO3
